US09428503B2
Intermediate P: 8-(6-fluoropyridin-3-yl)-3-methyl-1-[(3S)-oxan-3-yl]imidazo[5,4-c]quinolin-2-one
Pd(Ph3P)4 (0.160 g, 0.14 mmol) was added to 8-bromo-3-methyl-1-[(3S)-oxan-3-yl]imidazo[5,4-c]quinolin-2-one (1 g, 2.76 mmol), (6-fluoropyridin-3-yl)boronic acid (0.506 g, 3.59 mmol) and Cs2CO3 (1.799 g, 5.52 mmol) in 1,4-dioxane (23 mL) and water (3 mL) under nitrogen. The resulting mixture was stirred at 100° C. for 3 h then allowed to cool and the solvent removed under reduced pressure. The crude product was purified by FCC, elution gradient 0 to 7% MeOH in DCM to give the desired material (0.905 g, 87%) as a yellow solid. NMR Spectrum: 1H NMR (300 MHz, DMSO-d6) δ 1.83-1.86 (2H, m), 2.15-2.19 (1H, m), 2.49-2.64 (1H, m), 3.38-3.41 (1H, m), 3.49 (3H, s), 3.93 (1H, d), 4.15-4.26 (2H, m), 4.91-5.10 (1H, m), 7.42 (1H, dd), 7.96 (1H, dd), 8.13 (1H, d), 8.38 (1H, s), 8.44 (1H, td), 8.72 (1H, d), 8.96 (1H, s). Mass Spectrum: m/z (ES+)[M+H]+=379.1.

reactant | 8-bromo-3-methyl-1-[(3S)-oxan-3-yl]imidazo[5,4-c]quinolin-2-one | 2.76 mmol, 1 g | BrC1=CC=2C3=C(C=NC2C=C1)N(C(N3[C@@H]3COCCC3)=O)C | C16H16BrN3O2
reactant | (6-fluoropyridin-3-yl)boronic acid | 3.59 mmol, 0.506 g | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
reactant | Cs2CO3 | 5.52 mmol, 1.799 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 23 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.14 mmol, 0.160 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(6-fluoropyridin-3-yl)-3-methyl-1-[(3S)-oxan-3-yl]imidazo[5,4-c]quinolin-2-one | 0.905 g, 87% | FC1=CC=C(C=N1)C1=CC=2C3=C(C=NC2C=C1)N(C(N3[C@@H]3COCCC3)=O)C | C21H19FN4O2
